US09193728B2
Preparation of 3-(4-fluorophenyl)-1,2,3,4-tetrahydroquinoline
3-(4-Fluorophenyl) quinoline (1 g, 0.00448 mol) was dissolved in ethanol (25 mL), and to this was added platinum oxide (0.4 g) under nitrogen atmosphere. The reaction mixture was hydrogenated at 45 Psi for 10 h. After completion of reaction (monitored by TLC), the catalyst was removed by filtration, and the filtrate concentrated under reduced pressure. The crude product was purified by column chromatography (silica 100-200 mesh, diameter of column—2.5 cm, height of silica—approx. 5 inch) to provide the desired compound (0.25 g, 25% yield).

reactant | 3-(4-Fluorophenyl) quinoline | 0.00448 mol, 1 g | FC1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1 | C15H10FN
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 3-(4-fluorophenyl)-1,2,3,4-tetrahydroquinoline | 0.25 g, 25% yield | FC1=CC=C(C=C1)C1CNC2=CC=CC=C2C1 | C15H14FN
